US04994569
3-Aminophenol (1 g) is added at a temperature in the region of 20° C. to a solution, maintained under an argon atmosphere, of (5RS, 6SR)-5-(4-nitrophenoxycarbonyloxy)-2,6-diphenyl-5,6-dihydro-4H-1,3-oxazine (2.5 g) in anhydrous dimethylformamide (30 cc). The solution obtained is heated at 70° C. for 5 hours, then cooled to a temperature in the region of 20° C. and poured into distilled water (300 cc). The mixture is extracted with dichloromethane (2×150 cc). The organic phases are combined, washed with distilled water (3×20 cc), dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The oil obtained is purified by chromatography on silica (0.063-0.2 mm; 100 g) contained in a column 2 cm in diameter [eluent: cyclohexane/ethyl acetate/triethylamine (60:35:5 by volume)], collecting 25-cc fractions. The fractions 10 to 17 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization in diisopropyl ether, (5RS, 6SR)-5-(3-hydroxyphenylcarbamoyloxy)-2,6-diphenyl-5,6-dihydro-4H-1,3-oxazine (1.1 g), m.p. 170° C., is obtained.

reactant | 3-Aminophenol | 1 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | (5RS, 6SR)-5-(4-nitrophenoxycarbonyloxy)-2,6-diphenyl-5,6-dihydro-4H-1,3-oxazine | 2.5 g | [N+](=O)([O-])C1=CC=C(OC(=O)OC2CN=C(OC2C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C23H18N2O6
solvent | dimethylformamide | 30 cc | CN(C=O)C | C3H7NO
product | (5RS, 6SR)-5-(3-hydroxyphenylcarbamoyloxy)-2,6-diphenyl-5,6-dihydro-4H-1,3-oxazine | 1.1 g | OC=1C=C(C=CC1)NC(=O)OC1CN=C(OC1C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2O4
